US07897766B2
5-Chlorobenzofuran-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 5-chlorobenzofuran-2-carboxylic acid according to methods A and C. 1H NMR (300 MHz, methanol-d4) δ ppm 2.08-2.34 (m, 5H), 2.51 (s, 2H), 3.42-3.64 (m, 4H), 3.88 (d, J=12.5 Hz, 2H), 4.33 (s, 1H), 6.43-6.48 (m, 1H), 6.52 (s, 1H), 6.57-6.62 (m, 1H), 6.76 (d, J=2.0 Hz, 1H). MS (DCI/NH3) m/z 331.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 5-chlorobenzofuran-2-carboxylic acid | ClC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H5ClO3
reactant | NH3 | N | H3N
product | 5-Chlorobenzofuran-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C=2OC3=C(C2)C=C(C=C3)Cl | InChI=1S/C18H19ClN2O2.ClH/c19-14-1-2-15-11(5-14)6-16(23-15)18(22)20-17-12-3-10-4-13(17)9-21(7-10)8-12;/h1-2,5-6,10,12-13,17H,3-4,7-9H2,(H,20,22);1H/t10?,12?,13?,17-;
